US07449467B2
(1R,3S)-3-Isopropyl-3-{[4-[2-(trifluoromethyl)phenyl]-3,6-dihydropyridin-1(2H)-yl]carbonyl}cyclopentanamine
tert-Butyl ((1R,3S)-3-isopropyl-3-{[4-[2-(trifluoromethyl)phenyl]-3,6-dihydropyridin-1(2H)-yl]carbonyl}cyclopentyl)carbamate (0.17 g, 0.00035 mol) was dissolved in a 2.0 M solution of HCl in ether (2.2 mL). After being stirred for 2 h at room temperature, the solution was concentrated to give 144 mg of desired product as a clear oil. MS calculated for C21H27F3N2O: (M+H) 381; found 381.1.

reactant | tert-Butyl ((1R,3S)-3-isopropyl-3-{[4-[2-(trifluoromethyl)phenyl]-3,6-dihydropyridin-1(2H)-yl]carbonyl}cyclopentyl)carbamate | 0.00035 mol, 0.17 g | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCC(=CC1)C1=C(C=CC=C1)C(F)(F)F | C26H35F3N2O3
solvent | HCl | Cl | ClH
solvent | ether | 2.2 mL | CCOCC | C4H10O
product | (1R,3S)-3-Isopropyl-3-{[4-[2-(trifluoromethyl)phenyl]-3,6-dihydropyridin-1(2H)-yl]carbonyl}cyclopentanamine | 144 mg | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCC(=CC1)C1=C(C=CC=C1)C(F)(F)F | C21H27F3N2O
